US04032525
A solution of 121 g. of 2-(4-methyl-phenoxy)-5-methyl-benzoic acid in 600 ml. of tetahydrofuran is slowly added dropwise, with cooling in an icebath, to 420 ml. of a 70% solution of sodium dihydro-bis(1-methoxyethoxy)-aluminate in benzene and stirred for an additional hour at room temperature. To the obtained clear solution, 800 ml. of 20% aqueous sodium hydroxide solution are carefully added dropwise. Then, the organic phase is separated. The aqueous phase is extracted three additional times with ether. The organic extracts are washed with saturated sodium chloride solution and the latter dried over sodium sulfate. After evaporation of the ether, there is obtained 2-(4-methyl-phenoxy)-5-methyl-benzyl alcohol as an oil.

reactant | 2-(4-methyl-phenoxy)-5-methyl-benzoic acid | CC1=CC=C(OC2=C(C(=O)O)C=C(C=C2)C)C=C1 | C15H14O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(4-methyl-phenoxy)-5-methyl-benzyl alcohol | CC1=CC=C(OC2=C(CO)C=C(C=C2)C)C=C1 | C15H16O2
